### PR TITLE
feat(Combinatorics/SimpleGraph/Connectivity): change IsEdgeReachable and IsEdgeConnected to accept ENat instead of Nat

### PR DESCRIPTION
**Pull request by JadAbouHawili**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 1]
```diff
@@ -144,13 +144,13 @@ lemma isBridge_iff_not_isEdgeReachable_two (huv : G.Adj u v) :
 alias isBridge_iff_adj_and_not_isEdgeConnected_two := isBridge_iff_not_isEdgeReachable_two
 
 lemma isEdgeReachable_two : G.IsEdgeReachable 2 u v ↔ ∀ e, (G.deleteEdges {e}).Reachable u v := by
-  simp [isEdgeReachable_add_one]
+  simp [isEdgeReachable_add_one, ←one_add_one_eq_two]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [isEdgeReachable_add_one, ← one_add_one_eq_two]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 2]
```diff
@@ -144,13 +144,13 @@ lemma isBridge_iff_not_isEdgeReachable_two (huv : G.Adj u v) :
...
 
 /-- A graph is 2-edge-connected iff it has no bridge. -/
 -- TODO: This should be `G.IsEdgeConnected 2 ↔ ∀ e, ¬G.IsBridge e` after
 -- https://github.com/leanprover-community/mathlib4/pull/32583
 lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ ∀ e, (G.deleteEdges {e}).Preconnected := by
-  simp [isEdgeConnected_add_one]
+  simp [isEdgeConnected_add_one, ←one_add_one_eq_two]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [isEdgeConnected_add_one, ← one_add_one_eq_two]
```

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 3]
```diff
@@ -653,7 +653,7 @@ lemma IsTree.chromaticNumber_le_two (hG : G.IsTree) : G.chromaticNumber ≤ 2 :=
 lemma exists_isCycle_of_two_le_isEdgeReachable {u v : V} (huv : u ≠ v) {n : ℕ} (hn : 2 ≤ n)
     (h : G.IsEdgeReachable n u v) : ∃ w : G.Walk u u, w.IsCycle := by
   classical
-  obtain ⟨w, hw, h⟩ := exists_adj_isEdgeReachable_two huv (h.anti hn)
+  obtain ⟨w, hw, h⟩ := exists_adj_isEdgeReachable_two huv (h.anti (Nat.ofNat_le_cast.mpr hn))
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Could you revert this and instead change `n` to be of type `ℕ∞`?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:1]: Could you add these?

```lean
theorem isEdgeReachable_top_iff_forall_finite :
    G.IsEdgeReachable ⊤ u v ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Reachable u v := by
  sorry

theorem isEdgeConnected_top_iff_forall_finite :
    G.IsEdgeConnected ⊤ ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Preconnected := by
  sorry

theorem isEdgeReachable_top_iff_forall_nat :
    G.IsEdgeReachable ⊤ u v ↔ ∀ n : ℕ, G.IsEdgeReachable n u v := by
  sorry

theorem isEdgeConnected_top_iff_forall_nat :
    G.IsEdgeConnected ⊤ ↔ ∀ n : ℕ, G.IsEdgeConnected n := by
  sorry
```
This might be useful:
```lean
theorem isEdgeConnected_iff :
    G.IsEdgeConnected k ↔ ∀ ⦃s⦄, s.encard < k → (G.deleteEdges s).Preconnected :=
  ⟨fun h _ hs u v ↦ h u v hs, fun h u v _ hs ↦ h hs u v⟩
```
and also [`Set.encard_lt_top_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Card.html#Set.encard_lt_top_iff).

Comment (JadAbouHawili) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:1]: I pushed the proofs , but I'm struggling with golfing `isEdgeReachable_top_iff_forall_nat`. Let me know what you think.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 4]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
     refine (Set.subsingleton_iff_singleton h').mp ?_
     exact Set.encard_le_one_iff_subsingleton.mp (Order.le_of_lt_succ hs)
 
+/-!
+### `⊤` and `⊥` theorems
+-/
+
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: There's no `⊥`, just `⊤`
```suggestion
/-! ### `⊤` theorems -/

```
but also I think it's obvious and we should delete the header
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 5]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+theorem isEdgeReachable_top_iff_forall_finite :
+    G.IsEdgeReachable ⊤ u v ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Reachable u v :=
+  ⟨fun h s h' ↦ @h s (Set.Finite.encard_lt_top h'),
+    fun h s lt_top ↦ @h s (Set.encard_lt_top_iff.mp lt_top)⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `simp_rw` is great, it's like `rw` but can rewrite inside foralls or exists
(and it also rewrites multiple times, but we're not using it here)
```suggestion
    G.IsEdgeReachable ⊤ u v ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Reachable u v := by
  simp_rw [IsEdgeReachable, Set.encard_lt_top_iff]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 6]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+
+theorem isEdgeConnected_top_iff_forall_finite :
+    G.IsEdgeConnected ⊤ ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Preconnected := by
+  simp only [Preconnected, IsEdgeConnected, isEdgeReachable_top_iff_forall_finite]
+  grind
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I suggested `isEdgeConnected_iff` to make this easier
```suggestion
  simp_rw [isEdgeConnected_iff, Set.encard_lt_top_iff]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 7]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  have : s.encard = n := by
+    rw [←this]
+    simp only [Set.coe_ncard_eq_encard]
+  rw [this]
+  exact ENat.natCast_lt_succ
+
+theorem isEdgeConnected_top_iff_forall_nat :
+    G.IsEdgeConnected ⊤ ↔ ∀ n : ℕ, G.IsEdgeConnected n := by
+  unfold IsEdgeConnected
+  simp only [isEdgeReachable_top_iff_forall_nat]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp_rw [IsEdgeConnected, isEdgeReachable_top_iff_forall_nat]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 8]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  simp only [Preconnected, IsEdgeConnected, isEdgeReachable_top_iff_forall_finite]
+  grind
+
+theorem isEdgeReachable_top_iff_forall_nat :
+    G.IsEdgeReachable ⊤ u v ↔ ∀ n : ℕ, G.IsEdgeReachable n u v := by
+  constructor
+  · intro h n s h'
+    rw [isEdgeReachable_top_iff_forall_finite] at h
+    exact @h s (Set.finite_of_encard_lt_coe h')
+  intro h s h'
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: For the forward direction it's easier to use the fact that `IsEdgeReachable` is antitone
```suggestion
  refine ⟨fun h _ ↦ h.anti le_top, fun h s h' ↦ ?_⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 9]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  have : s.Finite := Set.encard_lt_top_iff.mp h'
+  have this2 := this
+  cases this
+  expose_names
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: You can use `Finite`'s API instead of this juggling:
```suggestion
  have ⟨n, ⟨a⟩⟩ := this.exists_equiv_fin
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 10]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  -- necessary else Fintype.card doesn't synthesize
+  have : Fintype s := by
+    exact this2.fintype
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `by` and `exact` are redundant
```suggestion
  have : Fintype s := this.fintype
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 11]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  have := @h (n + 1) s
+  apply this
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  apply @h (n + 1) s
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 12]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  have : Fintype.card ↑s = s.ncard := by
+    exact Set.fintypeCard_eq_ncard s
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `by` and `exact` are redundant, and so it the casting up-arrow. Also dot-notation is nice
```suggestion
  have : Fintype.card s = s.ncard := s.fintypeCard_eq_ncard
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 13]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  -- possibly extracted into a lemma
+  -- ↑s ≃ Fin n → s.ncard = n
+  have : s.ncard = n := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `by` is redundant for `calc` proofs
```suggestion
  have : s.ncard = n :=
```
I agree we should have a lemma for `s.Finite ↔ Nonempty (s ≃ Fin s.ncard)`, although I'm not sure it'll be useful here

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 14]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+    calc
+      s.ncard = Fintype.card ↑s := this.symm
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: The casting up-arrow is redundant, and you can inline the proof
```suggestion
      s.ncard = Fintype.card s := s.fintypeCard_eq_ncard.symm
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 15]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+      _ = Fintype.card (Fin n) := Fintype.card_congr a
+      _ = n := Fintype.card_fin n
+  have : s.encard = n := by
+    rw [←this]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Please mind your spacing
```suggestion
    rw [← this]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 16]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+    simp only [Set.coe_ncard_eq_encard]
+  rw [this]
+  exact ENat.natCast_lt_succ
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [this, ENat.natCast_lt_succ]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 17]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  -- possibly extracted into a lemma
+  -- ↑s ≃ Fin n → s.ncard = n
+  have : s.ncard = n := by
+    calc
+      s.ncard = Fintype.card ↑s := this.symm
+      _ = Fintype.card (Fin n) := Fintype.card_congr a
+      _ = n := Fintype.card_fin n
+  have : s.encard = n := by
+    rw [←this]
+    simp only [Set.coe_ncard_eq_encard]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  have : s.encard = n := by simp [← this, s.coe_ncard_eq_encard]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 16 above)
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [this, ← s.coe_ncard_eq_encard, ENat.natCast_lt_succ]
```

Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [← s.coe_ncard_eq_encard, ← s.fintypeCard_eq_ncard, Fintype.card_congr a,
    ENat.natCast_lt_succ]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 18]
```diff
@@ -168,6 +172,57 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  rw [this]
+  exact ENat.natCast_lt_succ
+
+theorem isEdgeConnected_top_iff_forall_nat :
+    G.IsEdgeConnected ⊤ ↔ ∀ n : ℕ, G.IsEdgeConnected n := by
+  unfold IsEdgeConnected
+  simp only [isEdgeReachable_top_iff_forall_nat]
+  grind
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `grind` doesn't save you much here over the faster manual solution:
```suggestion
  exact ⟨fun h n u v ↦ h u v n, fun h u v n ↦ h n u v⟩
```
also `exact?` finds this solution, which is cool

**Review by SnirBroshi — COMMENTED** [review]
> I'm struggling with golfing `isEdgeReachable_top_iff_forall_nat`

I've added some overlapping suggestion comments, so that you could see the process I've followed to golf, instead of just the final answer.
It's just basic ideas like combining `rw` and `simp`, etc.
The final result I got is 7 lines.

I'm not sure `Fintype` is the way to go here, but I wanted to first help you golf your proof.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 7 above)
Comment (JadAbouHawili) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `simp` is enough here

**Comment by JadAbouHawili** [comment]
> > I'm struggling with golfing `isEdgeReachable_top_iff_forall_nat`
> 
> I've added some overlapping suggestion comments, so that you could see the process I've followed to golf, instead of just the final answer. It's just basic ideas like combining `rw` and `simp`, etc. The final result I got is 7 lines.
> 
> I'm not sure `Fintype` is the way to go here, but I wanted to first help you golf your proof.

I have `s.Finite` which I'm breaking up and getting an equiv with `Fin n`, its an equivalence between types so getting `s.encard = n` is what I'm struggling with.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 9 above)
Comment (JadAbouHawili) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: i was doing `rcases this with `\<n,a>` but the output was ugly. Thanks.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 11 above)
Comment (JadAbouHawili) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: done, should I extract `↑s ≃ Fin n → s.ncard = n` as a lemma? is there cleaner proof without having to go through Fintype?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 19]
```diff
@@ -168,6 +172,33 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  simp_rw [isEdgeConnected_iff, Set.encard_lt_top_iff]
+
+theorem isEdgeReachable_top_iff_forall_nat :
+    G.IsEdgeReachable ⊤ u v ↔ ∀ n : ℕ, G.IsEdgeReachable n u v := by
+  refine ⟨fun h _ ↦ h.anti le_top, fun h s h' ↦ ?_⟩
+  have : s.Finite := Set.encard_lt_top_iff.mp h'
+  have this2 := this
+  have ⟨n, ⟨a⟩⟩ := this.exists_equiv_fin
+  -- necessary else Fintype.card doesn't synthesize
+  have : Fintype s := this2.fintype
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  have : Fintype s := this.fintype
```
and delete `this2`

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 20]
```diff
@@ -168,6 +172,33 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  apply @h (n + 1) s
+  -- possibly extracted into a lemma
+  -- ↑s ≃ Fin n → s.ncard = n
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
```
Maybe but let's not leave this comment here

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 21]
```diff
@@ -168,6 +172,33 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+  simp [← s.coe_ncard_eq_encard, ← s.fintypeCard_eq_ncard, Fintype.card_congr a,
+  ENat.natCast_lt_succ]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  simp [← s.coe_ncard_eq_encard, ← s.fintypeCard_eq_ncard, Fintype.card_congr a,
    ENat.natCast_lt_succ]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 11 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I think `s.Finite ↔ Nonempty (s ≃ Fin s.ncard)` would be better, instead of first getting some `n` and an equivalence from `Finite` you directly get an equivalence with `s.ncard`.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 22]
```diff
@@ -168,6 +172,33 @@ lemma exists_adj_isEdgeReachable_two (hne : u ≠ v) (h : G.IsEdgeReachable 2 u
...
+    G.IsEdgeReachable ⊤ u v ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Reachable u v := by
+  simp_rw [IsEdgeReachable, Set.encard_lt_top_iff]
+
+theorem isEdgeConnected_top_iff_forall_finite :
+    G.IsEdgeConnected ⊤ ↔ ∀ ⦃s⦄, s.Finite → (G.deleteEdges s).Preconnected := by
+  simp_rw [isEdgeConnected_iff, Set.encard_lt_top_iff]
+
+theorem isEdgeReachable_top_iff_forall_nat :
+    G.IsEdgeReachable ⊤ u v ↔ ∀ n : ℕ, G.IsEdgeReachable n u v := by
+  refine ⟨fun h _ ↦ h.anti le_top, fun h s h' ↦ ?_⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Here's a two-line proof without `Fintype`:
```suggestion
theorem isEdgeReachable_top_iff_forall_nat :
    G.IsEdgeReachable ⊤ u v ↔ ∀ n : ℕ, G.IsEdgeReachable n u v := by
  refine ⟨fun h _ ↦ h.anti le_top, fun h s hlt ↦ h (s.ncard + 1) ?_⟩
  simp [← Set.encard_lt_top_iff.mp hlt |>.cast_ncard_eq, -Nat.cast_add]
```

File: Mathlib/Data/Set/Card.lean [hunk 23]
```diff
@@ -164,6 +164,9 @@ theorem encard_ne_top_iff : s.encard ≠ ⊤ ↔ s.Finite := by
 theorem finite_of_encard_le_coe {k : ℕ} (h : s.encard ≤ k) : s.Finite := by
   rw [← encard_lt_top_iff]; exact h.trans_lt (WithTop.coe_lt_top _)
 
+theorem finite_of_encard_lt_coe {k : ℕ} (h : s.encard < k) : s.Finite :=
+  finite_of_encard_le_coe h.le
+
```
Comment (SnirBroshi) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
```
I think this is kinda redundant. It fits with its neighbors, but I also think the preexisting `finite_of_encard_eq_coe` below is redundant 😅

Comment (JadAbouHawili) [reply Mathlib/Data/Set/Card.lean]: I added this when I was doing the fintype proof. I didn't notice that I'm not using it anymore. Thanks.

I thought the same, but then I saw `finite_of_encard_eq_coe` was included and that changed my mind

**Review by SnirBroshi — APPROVED** [review]
Thanks! LGTM
